US07256178B2
(2) (8E,12E,14E)-7-hydroxy-6,10,12,16,20-pentamethyl-3,16,21-tris(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide
(8E,12E,14E)-7-acetoxy-6,10,12,16,20-pentamethyl-3,16,21-tris(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide (77 mg, 0.0875 mmol) was dissolved in methanol (2 mL). Potassium carbonate (36.5 mg, 0.262 mmol) and methanol (1 mL) were added to this methanolic solution, and the reaction mixture was stirred at room temperature for four hours. The reaction mixture was diluted with ethyl acetate, and then the organic layer was washed with brine. The organic layer was dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 50 μm; ethyl acetate-hexane, 1:9->1:6->1:4->1:3) to obtain the title compound (38.6 mg, 50%) as a colorless oil.

reactant | (8E,12E,14E)-7-acetoxy-6,10,12,16,20-pentamethyl-3,16,21-tris(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.0875 mmol, 77 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](CC)(CC)CC)C)O1)(O[Si](CC)(CC)CC)C)\C)O[Si](CC)(CC)CC)C | C48H90O8Si3
reactant | Potassium carbonate | 0.262 mmol, 36.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
product | (8E,12E,14E)-7-hydroxy-6,10,12,16,20-pentamethyl-3,16,21-tris(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide | 38.6 mg, 50% | OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](CC)(CC)CC)C)O1)(O[Si](CC)(CC)CC)C)\C)O[Si](CC)(CC)CC)C | C46H88O7Si3
